US07741341B2
2.00 g (12.0 mmol) Methyl-3,4-diamino-benzoate were dissolved in 50 mL concentrated acetic acid. Then 2.09 mL (1.4 equiv.) methyl-2,2,2-trichloroacetimidate were added slowly and the resulting mixture was stirred at room temperature for 2 h. The mixture was diluted with 100 mL toluene and the solvent was removed under reduced pressure. The residue was taken up in dichloromethane and washed once with a saturated NaHCO3-solution and once with brine. The organic layer was dried over MgSO4 and the solvent was removed under reduced pressure to give pure methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylate as a light brown amorphous solid. Yield: 3.64 g MS (ES+): m/e=293, chloro pattern.

reactant | Methyl-3,4-diamino-benzoate | 12.0 mmol, 2.00 g | COC(C1=CC(=C(C=C1)N)N)=O | C8H10N2O2
reactant | methyl-2,2,2-trichloroacetimidate | 2.09 mL, 1.4 equiv. | COC(C(Cl)(Cl)Cl)=N | C3H4Cl3NO
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylate | COC(=O)C1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C10H7Cl3N2O2
